US07544835B2
c) Ethyl 3-(1H-indol-3-yl)-2-isopropoxypropionate
2.3 g of Ethyl 2-isopropoxy-3-(1-methoxymethyl-1H-indol-3-yl)propionate was dissolved in 25 ml of acetone, and 15 ml of 5N hydrochloric acid was added, and the mixture was stirred for 2 hours. The reaction solution was cooled with ice, treated with water and sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was dissolved in 20 ml of ethanol, and an aqueous solution containing 2 g of potassium carbonate was added, and the mixture was stirred at 50° C. for 3 hours. The reaction solution was cooled with ice, treated with water and ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then evaporated. The residue was subjected to silica gel column chromatography (50% ethyl acetate-hexane), to give 0.75 g of the title compound.

reactant | Ethyl 2-isopropoxy-3-(1-methoxymethyl-1H-indol-3-yl)propionate | 2.3 g | C(C)(C)OC(C(=O)OCC)CC1=CN(C2=CC=CC=C12)COC | C18H25NO4
reactant | hydrochloric acid | 5N, 15 ml | Cl | ClH
reactant | water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | Ethyl 3-(1H-indol-3-yl)-2-isopropoxypropionate | 0.75 g | N1C=C(C2=CC=CC=C12)CC(C(=O)OCC)OC(C)C | C16H21NO3
